US08865726B2
To a stirred suspension of (1S,2S)-(+)-2-aminocyclohexanol hydrochloride (1.04 g, 6.86 mmol) in DCM (20 mL) was added triethylamine (2.39 mL, 17.1 mmol). A solution of di-tert-butyl dicarbonate (1.80 g, 8.23 mmol) in DCM (15 mL) was added dropwise. The reaction mixture was stirred at ambient temperature for 2 hours. The reaction was diluted with DCM and washed successively with 1N HCl, saturated aqueous NaHCO3 and brine, dried and concentrated. The residue was purified by column chromatography (hexane/EtOAc, 1:1) to give tert-butyl (1S,2S)-2-hydroxycyclohexylcarbamate (1.30 g, 88%).

reactant | (1S,2S)-(+)-2-aminocyclohexanol hydrochloride | 6.86 mmol, 1.04 g | Cl.N[C@@H]1[C@H](CCCC1)O
reactant | triethylamine | 17.1 mmol, 2.39 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 8.23 mmol, 1.80 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl (1S,2S)-2-hydroxycyclohexylcarbamate | 1.30 g, 88% | O[C@@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O | C11H21NO3
